US07816391B2
N-(2-adamantyl)-1-(4-chloro-2-methyl-phenyl)-5-tert-butyl-pyrazole-4-carboxamide (Intermediate#114) (647 mg, 1.52 mmol), Molybdenum hexacarbonyl (0.102 mL, 0.76 mmol), 4-Dimethylaminopyridine (371 mg, 3.04 mmol), N-Ethyldiisopropylamine (0.529 mL, 3.04 mmol), trans-Di-mu-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium(II) (71.4 mg, 0.08 mmol) and Tri-tert-butylphosphine tetrafluoroborate (88 mg, 0.30 mmol) were suspended in ethanol (6 mL) and dioxane (6.00 mL) and sealed into a microwave tube. The reaction was heated to 150° C. for 1 hour in the microwave reactor and cooled to RT. The reaction mixture was evaporated to dryness and redissolved in EtOAc (100), and washed with water (10 mL), filtered, then washed with 2M HCl (10 mL), and saturated brine (10 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 25% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford ethyl 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]-3-methyl-benzoate (352 mg, 50.0%) as a colourless oil.

reactant | N-(2-adamantyl)-1-(4-chloro-2-methyl-phenyl)-5-tert-butyl-pyrazole-4-carboxamide | 1.52 mmol, 647 mg | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(C)(C)C)C2=C(C=C(C=C2)Cl)C | C25H32ClN3O
reactant | N-Ethyldiisopropylamine | 3.04 mmol, 0.529 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Tri-tert-butylphosphine tetrafluoroborate | 0.30 mmol, 88 mg | F[B-](F)(F)F.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
reactant | dioxane | 6.00 mL | O1CCOCC1 | C4H8O2
reactant | ethanol | 6 mL | C(C)O | C2H6O
catalyst | 4-Dimethylaminopyridine | 3.04 mmol, 371 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | Molybdenum hexacarbonyl | 0.76 mmol, 0.102 mL | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
catalyst | trans-Di-mu-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium(II) | 0.08 mmol, 71.4 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | ethyl 4-[4-(2-adamantylcarbamoyl)-5-tert-butyl-pyrazol-1-yl]-3-methyl-benzoate | 352 mg, 50.0% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2C(C)(C)C)C2=C(C=C(C(=O)OCC)C=C2)C | C28H37N3O3
